US06277778B1
Bis(2-(t-hexyldimethylsiloxy)indenyl)ethane
To a solution of 2-(t-hexyldimethylsiloxy)indene (68.62 g, 250.0 mmol) in THF (250 mL) at 0° C. was added dropwise n-BuLi (100.0 mL of a 2.5 M solution in hexanes, 250.0 mmol), and the reaction mixture was stirred overnight at room temperature. The resulting solution was then cooled to −80° C. and treated dropwise with a solution of dibromoethane (23.48 g, 125.0 mmol) in THF (100 mL). After completed addition the reaction mixture was stirred overnight at room temperature and washed with saturated ammonium chloride solution (350 mL). Solvents from the organic phase were evaporated, and the product was dissolved in Et2O (350 mL), washed with water (2×300 mL) and dried over sodium sulphate. Repeated crystallizations at −15° C. afforded 37.48 g (52.2%) of the title compound as off-white crystals. The first crystalline fraction consisted of diastereomerically pure material that was used for spectral characterization. EIMS (calcd/found): m/e 574.3662/574.3659. 1H NMR (CDCl3, δ): 7.22-7.07 (m, 6H); 6.97 (td, 3J=7.4 Hz, 4J=1.2 Hz, 2H); 5.65 (s, 2H); 3.15 (m, 2H); 1.91-1.84 (m, AA′, 2H); 1.67 (sept, 3J=6.8 Hz, 2H); 1.57-1.50 (m, BB′, 2H); 0.89 (m, 24H); 0.27 (s, 6H); 0.24 (s, 6H). 13C NMR (CDCl3, δ): 164.75; 144.45; 140.58; 126.46; 122.60; 122.33; 118.68; 104.96; 49.24; 33.93; 25.03; 24.32; 20.14; 20.02; 18.51; 18.47; −2.66; −2.95.

reactant | 2-(t-hexyldimethylsiloxy)indene | 250.0 mmol, 68.62 g | C(C)(C)(CCC)[Si](OC=1CC2=CC=CC=C2C1)(C)C | C17H26OSi
reactant | n-BuLi | [Li]CCCC
reactant | dibromoethane | 125.0 mmol, 23.48 g | BrC(C)Br | C2H4Br2
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | Bis(2-(t-hexyldimethylsiloxy)indenyl)ethane | 37.48 g, 52.2% | C(C)(C)(CCC)[Si](OC=1C(C2=CC=CC=C2C1)C(C)C1C(=CC2=CC=CC=C12)O[Si](C(C)(C)CCC)(C)C)(C)C | C36H54O2Si2
